US04665227
N-(1-Methylethyl)-N-[3-(1-methylethylamino)propyl]-4-nitrobenzene sulfonamide
To N,N'-diisopropyl propane-1,3-diamine (23.43 g) in methylene chloride was added p-nitrobenzenesulfonyl chloride (11.08 g, 0.05 mole) dropwise and the reaction stirred 2 hours. The reaction was filtered, stripped, the residue dissolved in diethyl ether, refiltered after washing with water and the contents of the filtrate chromatographed on dry column silica gel with ethyl acetate to provide 9.75 g of clear product as the free base. Preparation of hydrochloride salt gave 8.22 g, m.r. 183°-185° C.

reactant | N,N'-diisopropyl propane-1,3-diamine | 23.43 g | C(C)(C)NCCCNC(C)C | C9H22N2
reactant | p-nitrobenzenesulfonyl chloride | 0.05 mole, 11.08 g | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-(1-Methylethyl)-N-[3-(1-methylethylamino)propyl]-4-nitrobenzene sulfonamide | 9.75 g | CC(C)N(S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-])CCCNC(C)C | C15H25N3O4S
